US07816406B2
4-Methoxy-2-(methylthio)pyrimidine-5-carboxylic acid.
To a solution of ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate (24.40 g, 104.9 mmol) in MeOH (125 mL) was added solid sodium methoxide (11.40 g, 211.0 mmol) at rt. The reaction mixture was stirred at rt for 5 h and then treated with NaOH (17.70 g, 315.5 mmol) in H2O (100 mL). It was then stirred at the same temperature for an additional 1 h. The reaction mixture was concentrated to half of the volume and then acidified to pH=4 with HCl (6N). The reaction was extracted with EtOAc (5×200 mL) and the organic layer was washed with brine (200 mL), dried over Na2SO4, and concentrated to yield the desired product as a white solid (19.28 g, 92%). MS (m/z): 201 (MH+). 1H NMR (DMSO-d6) δ: 8.72 (s, 1H), 3.98 (s, 3H), 2.54 (s, 3H).

reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 104.9 mmol, 24.40 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | sodium methoxide | 211.0 mmol, 11.40 g | C[O-].[Na+]
reactant | NaOH | 315.5 mmol, 17.70 g | [OH-].[Na+]
solvent | MeOH | 125 mL | CO | CH4O
solvent | H2O | 100 mL | O | H2O
product | 4-Methoxy-2-(methylthio)pyrimidine-5-carboxylic acid | 19.28 g, 92% | COC1=NC(=NC=C1C(=O)O)SC | C7H8N2O3S
